US04552585
Step C Synthesis of ethyl 2-methyl-2-methylthio-4-(phthalimidooxy)butanoate as an intermediate
This compound was prepared in the manner of Example 6, Step B, using 150.0 grams (0.588 mole) of ethyl 4-bromo-2-methyl-2-methylthiobutanoate, 95.9 grams (0.588 mole) of N-hydroxyphthalimide and 53.0 grams (0.647 mole) of sodium acetate in 1000 ml of dimethyl sulfoxide. The yield of ethyl 1-methyl-2-methylthio-4-(phthalimidooxy)butanoate was 93.0 grams as an oil.

reactant | ethyl 4-bromo-2-methyl-2-methylthiobutanoate | 0.588 mole, 150.0 grams | BrCCC(C(=S)OCC)(C)C | C8H15BrOS
reactant | N-hydroxyphthalimide | 0.588 mole, 95.9 grams | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | sodium acetate | 0.647 mole, 53.0 grams | C(C)(=O)[O-].[Na+]
reactant | dimethyl sulfoxide | 1000 ml | CS(=O)C | C2H6OS
product | ethyl 2-methyl-2-methylthio-4-(phthalimidooxy)butanoate | CC(C(=O)OCC)(CCON1C(C=2C(C1=O)=CC=CC2)=O)SC | C16H19NO5S
